US07863332B2
135 mg (5 mol %) of tetrakis(triphenylphosphine)palladium are added to a solution of 800 mg (2.34 mmol, 1 eq) of 1-(3-bromophenyl)-1-ethyl-3-heptylurea and 460 mg (3.0 mmol, 1.3 eq) of 4-formylphenylboronic acid in 10 mL of a mixture of dimethylformamide and of 2M potassium phosphate solution (8/2). The reaction mixture is stirred for 3 hours at 90° C. The reaction is stopped by addition of 50 mL of water and then extracted with ethyl acetate. The organic phases are combined and dried over sodium sulfate. The solvents are evaporated off and the residue is then chromatographed on silica gel (70/30 heptane/ethyl acetate). 740 mg of 1-ethyl-1-(4′-formylbiphenyl-3-yl)-3-heptylurea are obtained in oil form. Yield=86%

reactant | 1-(3-bromophenyl)-1-ethyl-3-heptylurea | 2.34 mmol, 800 mg, 1 eq | BrC=1C=C(C=CC1)N(C(=O)NCCCCCCC)CC | C16H25BrN2O
reactant | 4-formylphenylboronic acid | 3.0 mmol, 460 mg, 1.3 eq | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | potassium phosphate | 2M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 135 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 mL | O | H2O
product | 1-ethyl-1-(4′-formylbiphenyl-3-yl)-3-heptylurea | 740 mg, Yield=86% | C(C)N(C(=O)NCCCCCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)C=O | C23H30N2O2
